US07273877B2
To a mixture of 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid (130 mg, 0.34 mmol) and 2-(aminooxy)ethanol [prepared by the literature procedure: Dhanak, D.; Reese, C. B., J. Chem. Soc., Perkin Trans. 1, 1987; 2829] (52 mg, 0.67 mmol) in MeOH/THF (1:1, 20 mL) was added DMT-MM (187 mg, 0.67 mmol) and the mixture stirred at R.T. for 15 h. The reaction solvent was removed under reduced pressure and the oily residue partitioned between water (100 mL) and EtOAc (100 mL). The EtOAc fraction was then washed with water (2×100 mL) and brine (100 mL), dried (Na2SO4) and the solvent removed under reduced pressure. This afforded a cream solid which was purified by recrystallisation from EtOAc/MeOH to give 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white, crystalline solid (83 mg, 55%), m.p. (EtOAc/MeOH) 148-151° C. 1H NMR [(CD3)2SO, 400 MHz] δ 11.65 (v br s, 1H), 9.48 (br s, 1H), 8.13 (s, 1H), 7.74 (dd, J=10.2, 1.8 Hz, 1H), 7.58 (br d, J=8.6 Hz, 1H), 7.28 (t, J=8.5 Hz, 1H), 5.55 (s, 1H), 4.76 (v br s, 1H), 3.90 (t, J=4.9 Hz, 2H), 3.61 (t, J=4.9 Hz, 2H), 3.36 (s, 3H). Anal. Calcd for C15H15FIN3O4: C, 40.3; H, 3.4; N, 9.4. Found: C, 40.6; H, 3.6; N, 9.1.

reactant | 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 0.34 mmol, 130 mg | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)I | C13H10FIN2O3
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
reactant | DMT-MM | 0.67 mmol, 187 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | MeOH THF | 20 mL | CO.C1CCOC1
product | 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NOCCO)C=CC(=C1)I | C15H15FIN3O4
